US07405300B2
Phosphoric acid diethyl ester 2-[4-(3-formyl-1-phenyl-1H-indol-2-yl)piperazin-1-yl]ethyl ester is treated with 1M ethereal hydrochloric acid as described in Step 2 of Example 31 to obtain phosphoric acid diethyl ester 2-[4-(3-formyl-1-phenyl-1H-indol-2-yl)-piperazin-1-yl]-ethyl ester hydrochloride (54% yield) as pink powder. ESI/MS 486 (M+H); RT 2.52 min: NMR 10.15 (1H, s); 8.13 (1H, d, J=6 Hz); 7.70 (5H, m); 7.24 (2H, m); 6.96 (1H, d, J=9 Hz); 4.30 (2H, br s); 4.07 (6H, m); 3.59 (8H, br m); 1.27 (6H, t).

reactant | Phosphoric acid diethyl ester 2-[4-(3-formyl-1-phenyl-1H-indol-2-yl)piperazin-1-yl]ethyl ester | C(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)N1CCN(CC1)CCOP(OCC)(OCC)=O | C25H32N3O5P
reactant | hydrochloric acid | 1M | Cl | ClH
product | phosphoric acid diethyl ester 2-[4-(3-formyl-1-phenyl-1H-indol-2-yl)-piperazin-1-yl]-ethyl ester hydrochloride | 54% yield | Cl.C(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)N1CCN(CC1)CCOP(OCC)(OCC)=O | InChI=1S/C25H32N3O5P.ClH/c1-3-31-34(30,32-4-2)33-19-18-26-14-16-27(17-15-26)25-23(20-29)22-12-8-9-13-24(22)28(25)21-10-6-5-7-11-21;/h5-13,20H,3-4,14-19H2,1-2H3;1H
